US05292926
N-(2,2-Dimethyl-3-Mercaptopropionyl)-L-Cysteine (Compound No. 2)
To a solution of S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteine (18.0 g) in liquid ammonia(250 ml), metallic sodium (5.0 g) cut into small pieces was added. To this solution, ammonium chloride was added and then liquid ammonia was evaporated. To the residue, water was added, and the solution was washed with ethyl acetate. The aqueous layer was acidified with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography and recrystallized with a mixture of ethyl acetate and cyclohexane to give 7.1 g(69.6%) of the titled compound. The physical data were identical with those of the compound obtained in Example 2.

reactant | S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteine | 18.0 g | C(C1=CC=CC=C1)SC[C@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)C(=O)O | C22H27NO3S2
reactant | sodium | 5.0 g | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ammonia | 250 ml | N | H3N
product | N-(2,2-Dimethyl-3-Mercaptopropionyl)-L-Cysteine | 7.1 g, 69.6% | CC(C(=O)N[C@@H](CS)C(=O)O)(CS)C | C8H15NO3S2
